US07115645B2
2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid methyl ester
35 mg of 2-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid was dissolved in 0.4 ml of N,N-dimethylformamide and mixed with 29 mg of cesium carbonate and 50 μl of methyl iodide. It was stirred for 20 hours, then concentrated by evaporation in a vacuum and chromatographed on silica gel.

reactant | 2-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid | 35 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCOCC(=O)O)C2=CC=CC=C2 | C23H20N2O4
reactant | cesium carbonate | 29 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 50 μl | CI | CH3I
solvent | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
product | 2-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]acetic acid methyl ester | COC(COCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C24H22N2O4
